US03951988
Boiling a solution of 6.9 g of 2-furfurylideneacetoacetic acid ethyl ester and 5.2 g of 2-carbethoxymethylideneimidazolidine in 50 ml of ethanol for 8 hours yields 5-methyl-7-(2-furyl)-1,2,3,7-tetrahydroimidazolo[1,2-a]pyridine-6,8-dicarboxylic acid diethyl ester of melting point 164° (ethanol).

reactant | 2-furfurylideneacetoacetic acid ethyl ester | 6.9 g | C(C)OC(C(C(=O)C)=CC1=CC=CO1)=O | C11H12O4
reactant | 2-carbethoxymethylideneimidazolidine | 5.2 g | C(=O)(OCC)C=C1NCCN1 | C7H12N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-methyl-7-(2-furyl)-1,2,3,7-tetrahydroimidazolo[1,2-a]pyridine-6,8-dicarboxylic acid diethyl ester | Yield: 65% | C(C)OC(=O)C=1C(C(=C2N(C1C)CCN2)C(=O)OCC)C=2OC=CC2 | C18H22N2O5
